2128-05-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-5-5**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 91 (78 - 97) bpm
   BP: 98/65(71) {98/55(68) - 127/80(89)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    325 mL
                                                                    175 mL
   Urine:
                                                                    325 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 33 cmH2O
   SpO2: 95%
   ABG: ///50/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   320 K/uL
   8.6 g/dL
   119 mg/dL
   1.1 mg/dL
   50 mEq/L
   3.1 mEq/L
   21 mg/dL
   86 mEq/L
   142 mEq/L
   27.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2128-5-4**]  11:27 PM
                             [**2128-5-5**]  05:41 AM
   WBC
   12.2
   9.0
   Hct
   29.4
   27.0
   Plt
   341
   320
   Cr
   1.2
   1.1
   Glucose
   175
   119
   Other labs: PT / PTT / INR:13.1/26.5/1.1, Ca++:9.9 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   ## Failure to Wean from Vent: Presumably pt has severe COPD with
   difficulty weaning from vent. Possible that tracheal stenosis is a
   factor in difficulty to wean. No records available on OMR. Plan is for
   IP evaluation in am.
   --check plateau pressure and calculate resistance to better assess
   tracheal stenosis
   --touch base with [**Hospital1 **] physician and pt's pulmonologist in am for
   more PMH
   --NPO p MN for likely bronchoscopy in am
   --check coags, CHM7
   --continue current COPD regimen
   --cont current vent settings
   .
   ## COPD:
   -Cont current regimen of theophylline, fluticasone
   ipratropium/albuterol, alb PRN
   - unclear why she is not on long acting BB, discuss w/ primary pulm
   -titrate FiO2 to keep sats>93%
   -check theophylline level
   .
   ## HTN: BP stable
   -cont amlodipine and metoprolol
   .
   ## Depression/Anxiety:
   -Cont paroxetine, abilify, ativan
   .
   ## LE Edema: Pt reports she had a negative R LENI for DVT last week.
   --cont furosemide 80mg [**Hospital1 7**]
   --check with [**Hospital1 **] physician [**Last Name (NamePattern4) **]: LENI
   .
   # Stress Incontinence: cont ditropan
   .
   # Bone Health: Cont VitD and Ca
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-5-5**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-05-05 09:12:00 Physician Attending Progress Note
Chief Complaint:  Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, ? tracheal stenosis
   24 Hour Events: none since admit
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   aripiprazole
   loratadine
   lorazapam 0.5 [**Hospital1 **], 1mg qam
   vitD 800/caco3
   lopressor 50 [**Hospital1 7**]
   albuterol
   fluticasone
   mvi
   amlodipine
   paxil 40
   lansoprazole 30
   theophylline
   lasix 80
   bactrim 1 tab [**Hospital1 **]
   oxybutinin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2128-5-5**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 86 (78 - 97) bpm
   BP: 112/74(84) {98/55(68) - 127/80(89)} mmHg
   RR: 22 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    325 mL
                                                                    175 mL
   Urine:
                                                                    325 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 33 cmH2O
   SpO2: 96%
   ABG: ///50/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Respiratory / Chest: (Breath Sounds: Diminished: throughout), LLL
   wheeze
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   8.6 g/dL
   320 K/uL
   119 mg/dL
   1.1 mg/dL
   50 mEq/L
   3.1 mEq/L
   21 mg/dL
   86 mEq/L
   142 mEq/L
   27.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2128-5-4**]  11:27 PM
                             [**2128-5-5**]  05:41 AM
   WBC
   12.2
   9.0
   Hct
   29.4
   27.0
   Plt
   341
   320
   Cr
   1.2
   1.1
   Glucose
   175
   119
   Other labs: PT / PTT / INR:13.1/26.5/1.1, Ca++:9.9 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   53 yo F severe COPD with failure to wean from vent
   1. Unclear barriers to wean, likely anxiety, weakness, possible
   tracheomalacia
    - will obtain pulmonary records from OSH
    - trial PSV today
    - IP evaluation today/tomorrow
    - respiratory mechanics if possible
   2. COPD:
    - cont theophylline, combivent, flovent
   3. HTN:
    - amlodipine
   4. Anxiety
    - paroxetine, ability, ativan prn
   5. LE edema:
    - f/u prior LENIs
    - f/u TTE
   6. A/C:
    - recent rectus sheath hematoma, will need to clarify before starting
   a/c
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-5-5**] 12:00 AM
   Prophylaxis:
   DVT: (will need to clarify given report of history of rectal sheath
   hematoma)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 mins
   Patient is critically ill

2128-05-06 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Difficulty weaning off vent
   24 Hour Events:
   No events
   Per discussion with [**Hospital1 **] nursing staff: Patient has chronic LE
   edema, bilateral ultrasounds negative for DVT [**2128-4-16**].  Being treated
   with lasix [**Hospital1 **].   Patient is on bactrim for MRSA positive sputum
   cultures on [**2128-4-11**].   No reported history of increased cough, sputum,
   fever or WBC to correlate with active infection.  Patient has not been
   on steroids for atleast the last 4 weeks.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2128-5-5**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-5-6**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 70 (70 - 93) bpm
   BP: 113/72(82) {98/36(52) - 154/95(101)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,020 mL
                                                                    250 mL
   PO:
                                                                  1,020 mL
                                                                    250 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    700 mL
   Urine:
                                                                  1,275 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -255 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 6.3 L/min
   Physical Examination
   GEN: awake, alert, oriented x 3, NAD,
   HEENT: mmm
   CV: RRR
   LUNGS: diffuse wheezes, poor air movement
   ABD: Obese
   EXT: 1+ bilat LE edema
   Labs / Radiology
   352 K/uL
   8.6 g/dL
   117 mg/dL
   1.0 mg/dL
   50 mEq/L
   3.6 mEq/L
   21 mg/dL
   87 mEq/L
   143 mEq/L
   26.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2128-5-4**]  11:27 PM
                             [**2128-5-5**]  05:41 AM
                             [**2128-5-6**]  03:14 AM
   WBC
   12.2
   9.0
   10.1
   Hct
   29.4
   27.0
   26.7
   Plt
   [**Telephone/Fax (3) 14316**]
   Cr
   1.2
   1.1
   1.0
   Glucose
   175
   119
   117
   Other labs: PT / PTT / INR:13.3/26.5/1.1, Ca++:9.9 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   ## Failure to Wean from Vent: Plan for bronch by IP today to assess if
   she would benfit from trach stent
   --NPO
   --continue current COPD regimen
   --cont current vent settings
   ## COPD:
   -start steroid taper with prednisone40mg daily
   -Cont current regimen of theophylline, fluticasone
   ipratropium/albuterol, alb PRN
   -titrate FiO2 to keep sats>93%
   .
   # Elevated Biacrb: Likely has contraction alkolosis in addition to resp
   acidosis.
   --ABG this am
   --consider starting  acetazolamide to reduce bicarb
await ABG results
   --hold diuretics
   .
   ## HTN: BP stable
   -cont amlodipine and metoprolol
   ## Depression/Anxiety:
   -Cont paroxetine, abilify, ativan
   ## LE Edema: Holding lasix given contraction alkalosis.
   --start acetazolamide to reduce bicarbonate
   # Stress Incontinence: cont ditropan
   # Bone Health: Cont VitD and Ca
   ICU Care
   Nutrition: NPO for planned bronch
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-5-5**] 12:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending bronchoscopy

2128-05-06 10:39:00 Physician Attending Progress Note
Chief Complaint:  Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ? TBM vs stenosis of trachea
   24 Hour Events:
   Unable to tolerate PSV
   per NH, had been on lasix for fluid retention
   refused abg
   bactrim started [**4-11**] for mrsa colonization, and therefore
   discontinued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2128-5-5**] 08:03 PM
   Other medications:
   loratadine
   lorazepam 0.5 [**Hospital1 **], 1mg qam
   vit d
   calcium carbonate
   lopressore
   atrovent
   mvi
   amlodipine
   lanzoprazole
   theophylline
   docusate
   beclamethasone
   lasix 80 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-5-6**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 73 (70 - 91) bpm
   BP: 90/58(65) {90/36(52) - 154/95(101)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,020 mL
                                                                    300 mL
   PO:
                                                                  1,020 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    850 mL
   Urine:
                                                                  1,275 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -255 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Wheezes
   : diffusely)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.6 g/dL
   352 K/uL
   117 mg/dL
   1.0 mg/dL
   50 mEq/L
   3.6 mEq/L
   21 mg/dL
   87 mEq/L
   143 mEq/L
   26.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2128-5-4**]  11:27 PM
                             [**2128-5-5**]  05:41 AM
                             [**2128-5-6**]  03:14 AM
   WBC
   12.2
   9.0
   10.1
   Hct
   29.4
   27.0
   26.7
   Plt
   [**Telephone/Fax (3) 14316**]
   Cr
   1.2
   1.1
   1.0
   Glucose
   175
   119
   117
   Other labs: PT / PTT / INR:13.3/26.5/1.1, Ca++:9.9 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   56 YO F COPD awaiting IP procedure:
   1. Respiratory failure:
    - await IP procedure
    - Albuterol/atrovent 4 puffs q 4
    - beclamethasone
    - theophylline
    - steroids 40 mg qday x7
    - labs c/w contraction alkalosis, will decrease diuresis and consider
   acetazolamide  if mental status worsens
   2. Anxiety:
    - may need increased paroxetine
   3. FEN: regular diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2128-5-5**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2128-05-07 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2128-5-6**] 01:25 PM
 OR RECEIVED - At [**2128-5-6**] 02:20 PM
   -bronch with edema of subglottic and supraglottic structures, no
   tracheomalacia, no intervention
   -[**Hospital1 **] needs to rescreen patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-5-7**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 69 (64 - 84) bpm
   BP: 93/57(65) {90/50(61) - 130/75(86)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    950 mL
                                                                    200 mL
   PO:
                                                                    700 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    100 mL
   Urine:
                                                                  1,460 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -510 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 144
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.38/92.[**Numeric Identifier 132**]/77/48/24
   Ve: 6.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   367 K/uL
   8.5 g/dL
   84 mg/dL
   0.9 mg/dL
   48 mEq/L
   3.7 mEq/L
   23 mg/dL
   86 mEq/L
   140 mEq/L
   26.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2128-5-4**]  11:27 PM
                             [**2128-5-5**]  05:41 AM
                             [**2128-5-6**]  03:14 AM
                             [**2128-5-6**]  01:51 PM
                             [**2128-5-7**]  04:01 AM
   WBC
   12.2
   9.0
   10.1
   8.7
   Hct
   29.4
   27.0
   26.7
   26.2
   Plt
   [**Telephone/Fax (3) 14365**]67
   Cr
   1.2
   1.1
   1.0
   0.9
   TCO2
   57
   Glucose
   175
   119
   117
   84
   Other labs: PT / PTT / INR:13.3/26.5/1.1, Ca++:9.9 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   ## Failure to Wean from Vent: Plan for bronch by IP today to assess if
   she would benfit from trach stent
   --NPO
   --continue current COPD regimen
   --cont current vent settings
   ## COPD:
   -start steroid taper with prednisone40mg daily
   -Cont current regimen of theophylline, fluticasone
   ipratropium/albuterol, alb PRN
   -titrate FiO2 to keep sats>93%
   # Elevated Biacrb: Likely has contraction alkolosis in addition to resp
   acidosis.
   --ABG this am
   --consider starting  acetazolamide to reduce bicarb
await ABG results
   --hold diuretics
   ## HTN: BP stable
   -cont amlodipine and metoprolol
   ## Depression/Anxiety:
   -Cont paroxetine, abilify, ativan
   ## LE Edema: Holding lasix given contraction alkalosis.
   --start acetazolamide to reduce bicarbonate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-5-5**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-05-07 10:27:00 Physician Attending Progress Note
Chief Complaint:  Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, suglottic stenosis
   24 Hour Events:
   bronchoscopy [**5-6**] - subraglottic edema but no evidence tracheomalacia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2128-5-7**] 09:00 AM
   Other medications:
   aripiprazole
   ativen .5 [**Hospital1 **]
   vit d
   lopressor 50 [**Hospital1 **]
   combivent
   mvi
   norvasc 10
   paroxetine 40
   theophyline 200 [**Hospital1 **]
   ambien
   colace
   oxybutinin
   beclamethasone
   lasix 80
   prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-5-7**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 79 (64 - 82) bpm
   BP: 109/56(68) {91/42(63) - 139/75(86)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    950 mL
                                                                    440 mL
   PO:
                                                                    700 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    100 mL
   Urine:
                                                                  1,460 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -510 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 144
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.38/92.[**Numeric Identifier 132**]/77/48/24
   Ve: 7.5 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : decreased, Diminished:
   throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   367 K/uL
   84 mg/dL
   0.9 mg/dL
   48 mEq/L
   3.7 mEq/L
   23 mg/dL
   86 mEq/L
   140 mEq/L
   26.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2128-5-4**]  11:27 PM
                             [**2128-5-5**]  05:41 AM
                             [**2128-5-6**]  03:14 AM
                             [**2128-5-6**]  01:51 PM
                             [**2128-5-7**]  04:01 AM
   WBC
   12.2
   9.0
   10.1
   8.7
   Hct
   29.4
   27.0
   26.7
   26.2
   Plt
   [**Telephone/Fax (3) 14365**]67
   Cr
   1.2
   1.1
   1.0
   0.9
   TCO2
   57
   Glucose
   175
   119
   117
   84
   Other labs: PT / PTT / INR:13.3/26.5/1.1, Ca++:9.9 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   56 yo F with COPD, prolonged vent wean
   1. vent wean:
    - no intervention necessary by IP
    - to return to [**Hospital1 **] today
    - cont prednisone for 7 days for increased wheeze
    - cont daily lasix (decreased dose given evidence of dehydration)
    - cont nebs
   2. FEN: regular diet
   3. Dispo: return to [**Hospital1 **] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-5-5**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill